US06521643B1
To a suspension of N-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)-N′-benzoylthiourea (0.32 g) in methanol (3 ml) was added an aqueous sodium hydroxide solution (1N, 1 ml) dropwise. The mixture was stirred at ambient temperature for 4 hours, and the pH was adjusted to 8.0 with 1N hydrochloric acid. The precipitate was triturated with water, collected by filtration, washed with water and dried under reduced pressure to give N-(2-fluoro-5-(4-methoxypyridin-2-yl)-phenyl)thiourea (216 mg).

reactant | N-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)-N′-benzoylthiourea | 0.32 g | FC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)NC(=S)NC(C1=CC=CC=C1)=O | C20H16FN3O2S
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | N-(2-fluoro-5-(4-methoxypyridin-2-yl)-phenyl)thiourea | 216 mg | FC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)NC(=S)N | C13H12FN3OS
